US09283229B2
Step 1: Synthesis of ethyl 2-(3-vinylphenyl)acetate
To a mixture of ethyl 2-(3-bromophenyl)acetate (1.5 g, 6.1 mmol) in anhydrous DMF (15 mL) was added tributyl(vinyl)stannane (2.1 mL, 7.4 mmol) and tetrakis(triphenylphosphine) palladium (400 mg, 0.5 mmol) under nitrogen atmosphere. The resulting mixture was stirred at 110° C. for 8 hours. Followed a standard aqueous/EtOAc workup. Purified by silica gel column chromatography (petroleum:ether/ethyl acetate=15:1) (640 mg, yield 54%).

reactant | ethyl 2-(3-bromophenyl)acetate | 6.1 mmol, 1.5 g | BrC=1C=C(C=CC1)CC(=O)OCC | C10H11BrO2
reactant | tributyl(vinyl)stannane | 7.4 mmol, 2.1 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium | 0.5 mmol, 400 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 2-(3-vinylphenyl)acetate | yield 54% | C(=C)C=1C=C(C=CC1)CC(=O)OCC | C12H14O2
